US06391882B1
A solution of 5-fluorobenzofuran-3-carboxylic acid (56 g) and saturated etheral solution of hydrochloric gas (300 mL) in methanol (600 mL) was stirred for 16 h at room temperature. Further etheral HCl was added (300 mL) followed by stirring for 24 h. Concentration in vacuo gave a dark crystalline material, methyl 5-fluorobenzofuran-3-carboxylate (58 g).

reactant | 5-fluorobenzofuran-3-carboxylic acid | 56 g | FC=1C=CC2=C(C(=CO2)C(=O)O)C1 | C9H5FO3
reactant | HCl | Cl | ClH
reactant | methanol | 600 mL | CO | CH4O
product | methyl 5-fluorobenzofuran-3-carboxylate | 58 g | FC=1C=CC2=C(C(=CO2)C(=O)OC)C1 | C10H7FO3
